US09376436B2
To a suspension of 3-aminopyrrolidin-2-one (2.83 g, 28.22 mmol) in methanol (100 mL) was added 4-bromopicolinaldehyde (5 g, 26.88 mmol) and 4 A molecular sieves (20 g, 26.88 mmol). The reaction mixture was stirred for 16 hours at room temperature and then filtered through a pad of Celite. The filtrate was concentrated to give 3-[(E)-(4-bromo-2-pyridyl)methyleneamino]pyrrolidin-2-one as a brown gum (3.09 g, 11.53 mmol). This was dissolved in THF (120 mL) and treated with phenyl vinyl sulfone (1.94 g, 11.53 mmol), silver acetate (1.92 g, 0.59 mL, 11.53 mmol) and DBU (1.72 mL, 11.53 mmol). The reaction mixture was stirred for 3 hours at room temperature and then filtered through a pad of Celite and washed with dichloromethane. The filtrate was concentrated at reduced pressure to give a brown foam (9.53 g). This was dissolved in THF (120 mL) at 0° C. and treated with 1.7 M potassium tert-butoxide in THF (51.93 mL, 88.28 mmol) dropwise over 5 minutes. The reaction mixture was stirred at 0° C. for 1.5 hours. The reaction was quenched by the addition of acetic acid (5.04 mL, 88.28 mmol) and then filtered, washed with dichloromethane and the filtrate concentrated at reduced pressure to give a brown gum. The product was purified by silica gel chromatography eluting with 0-10% methanol in ethyl acetate to give 2-(4-bromo-2-pyridyl)-1,7-diazaspiro[4.4]non-1-en-6-one as an orange solid (830 mg);

reactant | 3-aminopyrrolidin-2-one | 28.22 mmol, 2.83 g | NC1C(NCC1)=O | C4H8N2O
reactant | 4-bromopicolinaldehyde | 26.88 mmol, 5 g | BrC1=CC(=NC=C1)C=O | C6H4BrNO
solvent | methanol | 100 mL | CO | CH4O
product | 3-[(E)-(4-bromo-2-pyridyl)methyleneamino]pyrrolidin-2-one | 11.53 mmol, 3.09 g | BrC1=CC(=NC=C1)\C=N\C1C(NCC1)=O | C10H10BrN3O
